US04200641
To a stirred mixture of 3.2 parts of a sodium hydride dispersion 70% in 9 parts of N,N-dimethylformamide is added dropwise (slowly), during a 2 hours-period, a mixture of 17.4 parts of 1,3-dihydro-1-(1-methylethenyl)-2H-benzimidazol-2-one, 77.5 parts of 1,6-dichlorohexane and 36 parts of N,N-dimethylformamide. Upon completion, stirring is continued overnight at room temperature. The reaction mixture is filtered over hyflo and the N,N-dimethylformamide is evaporated in vacuo. The excess of 1,6-dichlorohexane is distilled off in an oil-bath with water-jet. The residue is dissolved in methylbenzene and the solution is stirred with activated charcoal. The latter is filtered off over hyflo and the filtrate is evaporated, yielding 1-(6-chlorohexyl)-1,3-dihydro-3-(1-methylethenyl)-2H-benzimidazol-2-one as an oily residue.

reactant | sodium hydride | [H-].[Na+]
reactant | 1,3-dihydro-1-(1-methylethenyl)-2H-benzimidazol-2-one | CC(=C)N1C(NC2=C1C=CC=C2)=O | C10H10N2O
reactant | 1,6-dichlorohexane | ClCCCCCCCl | C6H12Cl2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 1-(6-chlorohexyl)-1,3-dihydro-3-(1-methylethenyl)-2H-benzimidazol-2-one | ClCCCCCCN1C(N(C2=C1C=CC=C2)C(=C)C)=O | C16H21ClN2O
